US07790707B2
4-(3-(4-tert-Butylphenyl)-2-oxoimidazolidin-1-yl)benzaldehyde (Step 5 in Scheme 1)
A mixture of 1-(4-tert-butylphenyl)-3-(4-(hydroxymethyl)phenyl)imidazolidin-2-one (100 mg, 0.31 mmol), 4-methylmorpholine N-oxide (72 mg, 0.62 mmol), and 4 A molecular sieves (100 mg) in 10 ml of acetonitrile was treated with tetrapropylammonium perruthnate and the resulting mixture was stirred at room temperature for 3 hours. The solids were filtered and the filtrated was concentrated. The residue was purified on ISCO system (2% methanol in dichloromethane) to give a pure product as a white crystalline (72 mg, 73%): 1H NMR (400 MHz, CDCl3) δ 9.93 (s, 1H), 7.81 (d, 2H), 7.79 (d, 2H), 7.50 (d, 2H), 7.40 (d, 2H), 4.03 (s, 4H), 1.33 (s, 9H). MS (ESI) m/z: Calculated: 322.17; Observed: 323.1 (M++1).

reactant | 1-(4-tert-butylphenyl)-3-(4-(hydroxymethyl)phenyl)imidazolidin-2-one | 0.31 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CO)=O | C20H24N2O2
reactant | 4-methylmorpholine N-oxide | 0.62 mmol, 72 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropylammonium | C(CC)[N+](CCC)(CCC)CCC
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(3-(4-tert-Butylphenyl)-2-oxoimidazolidin-1-yl)benzaldehyde | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=O)C=C1)=O | C20H22N2O2
